US08034827B2
b) 4-(1-Benzyl-piperidin-4-ylidenemethyl)-benzonitrile
Under argon, to a stirred mixture of N-benzyl-4-piperidone (Aldrich) (26.0 g, 0.137 mol) and (4-cyano-benzyl)-phosphonic acid diethyl ester (36.6 g, 0.1445 mol) in dimethylformamide (260 mL) sodium hydride (60%, 7.8 g, 0.195 mol) was added at 0° C. The reaction mixture was stirred at room temperature overnight, then ethanol (10 mL) was added dropwise, the so obtained mixture was poured into water (300 mL), and extracted with diethyl ether (3×300 mL). The organic layer was dried over sodium sulfate and concentrated. The residue was purified by column chromatography using Kieselgel 60 (0.040-0.063 mm) (Merck) as adsorbent, and n-hexane:ethyl acetate=2:1 as eluent to yield 34.65 g (87%) of the title compound as an oil.

reactant | N-benzyl-4-piperidone | 0.137 mol, 26.0 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | (4-cyano-benzyl)-phosphonic acid diethyl ester | 0.1445 mol, 36.6 g | C(C)OP(OCC)(=O)CC1=CC=C(C=C1)C#N | C12H16NO3P
reactant | dimethylformamide | 0.195 mol, 260 mL, 7.8 g | CN(C=O)C | C3H7NO
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 300 mL | O | H2O
product | 4-(1-Benzyl-piperidin-4-ylidenemethyl)-benzonitrile | 34.65 g, 87% | C(C1=CC=CC=C1)N1CCC(CC1)=CC1=CC=C(C#N)C=C1 | C20H20N2
